US08623875B2
Preparation of 4-[5-(3,5-dichlorophenyl)-4,5-dihydro-5-(trifluoromethyl)-3-isoxazolyl]-N-[2-(S-methylsulfonimidoyl)ethyl]-1-naphthalene carboxamide
To a stirred solution of 4-[5-(3,5-dichlorophenyl)-4,5-dihydro-5-(trifluoromethyl)-3-isoxazolyl]-N-[2-[S-methyl-N-(2,2,2-trifluoroacetyl)sulfonimidoyl]ethyl]-1-naphthalene-carboxamide (i.e. the title compound of Example 3) (60 mg) in methanol (4 mL) was added potassium carbonate (230 mg) at room temperature. After stirring for 30 minutes at room temperature, the reaction mixture was filtered through a short pad of silical gel and rinsed with ethyl acetate. After concentration, the residue was purified by column chromatography on silica gel using dichloromethane/methanol (98:2 to 92:8) as eluent to provide the title product, a compound of the present invention, as a white solid (39 mg, 76% yield).

reactant | 4-[5-(3,5-dichlorophenyl)-4,5-dihydro-5-(trifluoromethyl)-3-isoxazolyl]-N-[2-[S-methyl-N-(2,2,2-trifluoroacetyl)sulfonimidoyl]ethyl]-1-naphthalene-carboxamide | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC=C(C2=CC=CC=C12)C(=O)NCCS(=O)(=NC(C(F)(F)F)=O)C)C(F)(F)F | C26H19Cl2F6N3O4S
reactant | potassium carbonate | 230 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 4 mL | CO | CH4O
product | 4-[5-(3,5-dichlorophenyl)-4,5-dihydro-5-(trifluoromethyl)-3-isoxazolyl]-N-[2-(S-methylsulfonimidoyl)ethyl]-1-naphthalene carboxamide | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC=C(C2=CC=CC=C12)C(=O)NCCS(=O)(=N)C)C(F)(F)F | C24H20Cl2F3N3O3S
